US07157487B2
In DMF (15 ml) were dissolved 1-isoquinolinecarboxylic acid (1.00 g, 5.77 mmol), methyl 4-amino-3-chlorophenylacetate (1.23 g, 6.16 mmol), HOBt (0.16 g, 1.15 mmol), and DMAP (0.14 g, 1.15 mmol). To the resulting solution was added EDC HCl (1.33 g, 6.93 mmol), followed by stirring at room temperature for 14 hours. The reaction mixture was poured into water (40 ml). The crystals precipitated were collected by filtration under reduced pressure, washed with water and ether, dried under reduced pressure to give methyl (3-chloro-4-((1-isoquinolinylcarbonyl)amino)phenyl)acetate (1.14 g, 56%) as a brown solid.

reactant | 1-isoquinolinecarboxylic acid | 5.77 mmol, 1.00 g | C1(=NC=CC2=CC=CC=C12)C(=O)O | C10H7NO2
reactant | methyl 4-amino-3-chlorophenylacetate | 6.16 mmol, 1.23 g | NC1=C(C=C(C=C1)CC(=O)OC)Cl | C9H10ClNO2
reactant | HOBt | 1.15 mmol, 0.16 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC HCl | 6.93 mmol, 1.33 g | CCN=C=NCCCN(C)C.Cl
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
catalyst | DMAP | 1.15 mmol, 0.14 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | water | 40 ml | O | H2O
product | methyl (3-chloro-4-((1-isoquinolinylcarbonyl)amino)phenyl)acetate | 1.14 g, 56% | ClC=1C=C(C=CC1NC(=O)C1=NC=CC2=CC=CC=C12)CC(=O)OC | C19H15ClN2O3
